Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Syncope 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This patient is a ___ male with past medical history of 
HTN, high cholesterol, presents from EMS complaining of an 
episode of weakness vs presyncope at home today. The patient 
states that he was in the shower this morning "a few hours ago" 
when he felt a gradual sensation of weakness in both of his 
legs, calling him to call partially backward out of the shower. 
He then fell sideways onto his left shoulder. Denies headstrike 
or LOC. He states that his legs felt like they would not hold 
him up. Episode lasted for ~30 minutes. At no time did he 
experience numbness, tingling, facial droop, voice changes, or 
vision changes. He also denies chest pain, shortness of breath, 
palpitations. Denies neck or back pain.  
 Notably, the patient had a brief syncopal episode in the ED 
related to phlebotomy, but returned to baseline mental status 
quickly.  
 Of note, he reports multiple episodes of urinary urgency in the 
preceding week along with diarrhea.  
 In the ED, initial vital signs were: T 98.2 , HR 87, BP 110/67, 
RR 18, O2 Sat 100% RA  
 Exam notable for no significant signs of trauma, neuro intact.  

 Labs were notable for UA showing positive nitrites, protein, 
glucose, ketones, hyaline casts; WBC 12.9; H/H 12.6/38.2; HCO3- 
21; BUN 28; Cr 1.7; ___ Glucose 154  
 Patient was given:  
 ___ 14:29 IVF 1000 mL LR 1000 mL  
 ___ 16:18 IV CeftriaXONE 1 gmOn  
 Transfer Vitals were: HR 81, BP 117/92, RR 13, O2Sat 97% RA  
 On arrival to the floor the patient is in good spirits and 
recounts the events detailed above. His family is at bedside and 
they further corroborate his story of "falling out" in the 
shower earlier. They noted that he has done this ___ times over 
the past few years. They additionally report that he lost 
control of his bowels following this incident, and was staring 
off blankly for approximately 30 minutes.  
 The patient notes that he has recently been using a topical 
___ balm to help with muscle aches (bottle ingredients 
listed as menthol, methyl salicylate, ethyl alcohol, 
chlorophyll, mineral oil, rose oil). He feels that he hasn't 
been walking normally since applying this broadly to his neck.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI, additionally dysuria  
 (-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, hematuria.  

 
Past Medical History:
Hypercholesterolemia  
 HTN  
 Erectile dysfunction  
 Retinal degeneration  
 Chronic kidney disease  
 Ruptured cervical disc  
 Cervical disc herniation  
 Hematuria  
 Syncope  
 Diverticulosis  

 
Social History:
___
Family History:
 FAMILY HISTORY: Mother deceased at age ___ with breast cancer, 
T2D. Father deceased at ___ with stroke. Two brothers living with 
prostate cancer.  

 
Physical Exam:
ADMISSION EXAM
==============
Vitals: 98.3 120/64 78 18 97% RA  
General: NAD, sitting upright in bed  
HEENT: NCAT, EOMI, R keyhole pupil, MMM, OP clear  
Lymph: No cervical LAD  
CV: RRR, nl S1/S2 no mrg  
Lungs: CTAB  
Abdomen: soft, nt, nd, no hsm  
GU: deferred  
Ext: wwp, no peripheral edema or cyanosis  
Neuro: AOx3, CN ___ intact, strength ___ in bilateral U/L ext, 
sensation to light touch intact throughout, gait normal  
Skin: 2 x 2 abrasion to R shoulder blade, no rashes  

DISCHARGE EXAM 
==============
Vitals: 99.0, 145/68 (111/57-145/68), 74, 18, 100RA  
General: NAD, comfortable in bed watching TV 
HEENT: NCAT, EOMI, R keyhole pupil e/o b/l cataracts, MMM, OP 
clear  
Lymph: No cervical LAD  
CV: RRR, nl S1/S2, no MRG
Lungs: CTAB, good inspiratory effort   
Abdomen: soft, nt, nd, no hsm  
Ext: wwp, no peripheral edema or cyanosis  
Neuro: AOx3, CN ___ intact, strength ___ in bilateral U/L ext, 
sensation to light touch intact throughout, gait deferred, 
coordination in tact 
Skin: 2 x 2 abrasion to R shoulder blade, no rashes  

 
Pertinent Results:
ADMISSION LABS
==============

___ 12:40PM   HCT-UNABLE TO 
___ 12:40PM   estGFR-Using this
___ 12:40PM   GLUCOSE-177* UREA N-28* CREAT-1.7* SODIUM-133 
POTASSIUM-6.3* CHLORIDE-102 TOTAL CO2-21* ANION GAP-16
___ 01:36PM   K+-3.9
___ 02:10PM   PLT COUNT-202
___ 02:10PM   NEUTS-85.8* LYMPHS-4.4* MONOS-9.2 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-11.05*# AbsLymp-0.56* 
AbsMono-1.19* AbsEos-0.00* AbsBaso-0.02
___ 02:10PM   WBC-12.9*# RBC-4.02* HGB-12.6* HCT-38.2* 
MCV-95 MCH-31.3 MCHC-33.0 RDW-12.2 RDWSD-42.8
___ 02:26PM   LACTATE-1.8
___ 02:30PM URINE  RBC-1 WBC-67* BACTERIA-MANY YEAST-NONE 
EPI-0
___ 02:30PM URINE  BLOOD-SM  NITRITE-POS PROTEIN-30 
GLUCOSE-TR KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-LG

DISCHARGE LABS
==============

___ 05:10AM BLOOD WBC-9.3 RBC-3.40* Hgb-10.6* Hct-32.3* 
MCV-95 MCH-31.2 MCHC-32.8 RDW-12.1 RDWSD-42.2 Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-128* UreaN-22* Creat-1.3* Na-140 
K-3.9 Cl-104 HCO3-27 AnGap-13
___ 05:10AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.1

MICRO 
=====
URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML.

C. difficile DNA amplification assay (Final ___: 
      Negative 

STUDIES
=======

CXR
No comparison.  The lung volumes are normal.  Normal size of the 
cardiac 
silhouette.  Normal hilar and mediastinal contours.  No 
pneumonia, no 
pulmonary edema, no pleural effusions.  Minimal atelectasis at 
the medial 
aspect of the right lower lung. 

 
Brief Hospital Course:
___ with history of recurrent syncope who presents after episode 
of weakness concerning for syncope but without neuro deficits on 
exam or abnormal EKG changes, found to have a UTI and 
pre-syncopal episode in ED without changes in telemetry.

ACTIVE ISSUES 
=============

#Vasovagal Syncope: He was monitored on telemetry during 
admission without events. He did not have further episodes of 
syncope during admission. Upon careful questioning, highest 
suspicion was for neurocardiogenic syncope in setting of 
syncopal events preceded by lightheadedness, weakness, in 
setting of warm showers/baths or repeated phlebotomy attempts. 
The past two times syncope occurred, he was found to have a 
urinary tract infection as well. He did not have any s/s 
concerning for seizures. He was not orthostatic. Home 
supplements were discontinued given the possibility for 
medication interactions/side effects. TTE was discussed and 
recommended to be done as an outpatient.   

#Bacterial Urinary tract infection: Urine Culture grew GNR at 
the time of discharge. He was treated with 3 days of Ceftriaxone 
and discharged on DS Bactrim to complete 7 day course for 
complicated UTI.
- Sensitivities will be followed up to confirm adequate 
treatment

___ on CKD. Cr was 1.7 on admission and downtrended with IVF. 
Cr was at baseline 1.3 on day of discharge.  

CHRONIC ISSUES 
===============  

#HTN: Home antihypertensives restarted on discharge, with 
lisinopril at decreased dose of 5mg. 

# Anemia. Normocytic/Macrocytic. He had a mild decrease in H/H 
consistent with diluational effect. Repeat H/H was stable and he 
did not have e/o GIB.

TRANSITIONAL ISSUES 
===================

# UTI. 
- F/u urine culture and speciation/sensitivity. Discharged on 
Bactrim DS BID for 4 days to complete total 7 day treatment 
course to end ___. 
- Recommend repeat Chem 7 (K and Cr) given Bactrim and 
Lisinopril

# HTN
- Discharged on lisinopril 5mg (from 10mg) and HCTZ 12.5. 
- Recommend repeat Chem 7 to monitor K and Cr in 1 week 

# Syncope
- Recommend outpatient TTE to evaluate if symptoms recur. 

# Code: Full (confirmed) 
# Communication: Patient 
# Emergency Contact: Daughter ___ ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Pravastatin 20 mg PO QPM 
4. ___ (tadalafil) 5 mg oral DAILY for erectile dysfunction 

 
Discharge Medications:
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
3. Pravastatin 20 mg PO QPM 
4. ___ (tadalafil) 5 mg oral DAILY for erectile dysfunction 
5. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 4 Days 
Please start ___ AM 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice daily Disp #*8 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Syncope, neurocardiogenic 

Secondary Diagnosis 
Urinary tract infection 
Loose stools 
Anemia
Hypertension 
Acute kidney injury on chronic kidney disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were hospitalized after a syncopal 
event. You were found to have a urinary tract infection and were 
given antibiotics. We think the syncope you had at home was 
related to being dehydrated and infected with the UTI. When this 
happens and you are under hot water (like in the shower) blood 
flow can be temporary reduced to the brain which can cause you 
to become dizzy. We don't think that you need additional imaging 
of your heart or your brain. 

We are concerned that your herbal supplements and ___ may 
make you more likely to faint. Please stop all herbal 
supplements and discuss with your primary care physician 
regarding using ___ in the future. 

We wish you the best, 

Your ___ Treatment Team 
 
Followup Instructions:
___